US06384065B1
In 10 ml of methylene chloride was dissolved 0.96 g of 2-[4-[3-(benzyloxy)-3-oxopropyl]-8-(3-methylbutylidene)-3-oxo-1-thia-4-azaspiro[4.5]decan-2-yl]-acetic acid. After adding 0.18 ml of thionyl chloride at ambient temperature, the resulting mixture was stirred for one hour under reflux. The reaction mixture was concentrated under reduced pressure, and the concentrate was dissolved in 10 ml of dioxane. The resulting solution was dropwise added at 0-5° C. to an ethyl ether solution containing diazomethane prepared from 5.00 g of N-methylnitrosourea, 3.00 g of potassium hydroxide, 4.00 ml of water and 15 ml of ethyl ether, and the resulting mixture was stirred at ambient temperature for 30 minutes. The reaction mixture was poured into a mixture of water, acetic acid and ethyl acetate, and the organic layer was separated. The organic layer thus obtained was washed successively with water, saturated aqueous solution of sodium hydrogen carbonate and saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was dissolved in a mixture of 10 ml dioxane and 10 ml water, and the resulting solution was added to a mixture of 0.16 g of silver benzoate and 3.00 ml of triethylamine at ambient temperature and stirred for 2 hours. The reaction mixture was poured into a mixture of water and ethyl acetate, pH was adjusted to 2.0 with 2 mol/L hydrochloric acid, and the organic layer was separated. The organic layer thus obtained was washed successively with water and saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. Purification of the residue by column chromatography [eluent: chloroform:ethanol=80:1] gave 0.36 g of 3-[4-[3-(benzyloxy)-3-oxopropyl]-8-(3-methylbutylidene)-3-oxo-1-thia-4-azaspiro[4.5]decan-2-yl]-propionic acid as a light yellow oily product.

reactant | 2-[4-[3-(benzyloxy)-3-oxopropyl]-8-(3-methylbutylidene)-3-oxo-1-thia-4-azaspiro[4.5]decan-2-yl]-acetic acid | 0.96 g | C(C1=CC=CC=C1)OC(CCN1C(C(SC12CCC(CC2)=CCC(C)C)CC(=O)O)=O)=O | C25H33NO5S
reactant | thionyl chloride | 0.18 ml | S(=O)(Cl)Cl | Cl2OS
reactant | water | O | H2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[4-[3-(benzyloxy)-3-oxopropyl]-8-(3-methylbutylidene)-3-oxo-1-thia-4-azaspiro[4.5]decan-2-yl]-propionic acid | 0.36 g | C(C1=CC=CC=C1)OC(CCN1C(C(SC12CCC(CC2)=CCC(C)C)CCC(=O)O)=O)=O | C26H35NO5S
